US08748436B2
(f) 2,6-Dimethyl-4-(5-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-phenol
To a solution of 2.5 g of 2-(4-methoxy-3,5-dimethyl-phenyl)-5-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidine in 50 ml of dichloromethane 0.70 ml of boron tribromide were added slowly at −20° C. After 1 h at −20° C. and 2 h at room temperature, the mixture was quenched by addition of a saturated aqueous sodium hydrogencarbonate solution while maintaining a temperature below 5° C. The phases were separated, and then the aqueous phase was extracted twice with dichloromethane. The combined organic phases were dried and concentrated in vacuo. 2.0 g of the title compound were obtained.

reactant | 2-(4-methoxy-3,5-dimethyl-phenyl)-5-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidine | 2.5 g | COC1=C(C=C(C=C1C)C=1OC=2N=C(N=C(C2N1)OCCC)SC)C | C18H21N3O3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,6-Dimethyl-4-(5-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-phenol | 2.0 g | CC1=C(C(=CC(=C1)C=1OC=2N=C(N=C(C2N1)OCCC)SC)C)O | C17H19N3O3S
